US05198449
1-Benzoyl-N,α-bis(4-fluorophenyl)-4-piperidinemethanamine
A solution of N,α-bis(4-fluorophenyl)-4-piperidinemethanamine (3.21 g, 0.0106 mol), triethylamine (2.5 g, 0.025 mol), and benzoyl chloride (1.70 g, 0.012 mol) in 400 mL of methylene chloride was stirred 16 h at room temperature. The reaction was concentrated to dryness and dissolved in chloroform. The chloroform layer was extracted successively with water, 1N sulfuric acid, and 5% sodium hydroxide. The chloroform layer was dried (Na2SO4) and filtered. The chloroform was removed to give a fluffy-white residue. This material was dissolved in methylene chloride and chromatographed by flash chromatography on silica gel. Elution was accomplished using methylene chloride, 1% acetone-methylene chloride, 2% acetone-methylene chloride, and 4% acetone-methylene chloride. Fractions of similar purity were combined, and solvents removed to give a fluffy-white residue. This material was triturated with isopropyl ether and chilled in a freezer. A white solid was isolated and dried, 16 h at 78° C. This furnished 1.40 g (32.5%) of white crystalline solid, mp 157°-158° C.

reactant | N,α-bis(4-fluorophenyl)-4-piperidinemethanamine | 0.0106 mol, 3.21 g | FC1=CC=C(C=C1)NC(C1CCNCC1)C1=CC=C(C=C1)F | C18H20F2N2
reactant | triethylamine | 0.025 mol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.012 mol, 1.70 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzoyl-N,α-bis(4-fluorophenyl)-4-piperidinemethanamine | C(C1=CC=CC=C1)(=O)N1CCC(CC1)C(NC1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C25H24F2N2O
